US07790709B2
Preparation of (E)-N-(5-{2-[Methyl-(1-methyl-1H-indol-2-ylmethyl)carbamoyl]vinyl}pyridin-2-yl)succinamide
A mixture of (E)-3-[6-(2,5-dioxo-pyrrolidin-1-yl)pyridin-3-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide (260 mg, 0.645 mmol) and ammonia (12 mL of 0.5M solution in 1,4-dioxane, 6.0 mmol) in a sealed tube was heated to 60° C. overnight. After cooling to ambient temperature, the resulting white precipitate was collected by filtration. The resulting solid was triturated with MeOH, washed with Et2O, and dried under high vacuum at 50° C. for 2 d to give the title compound (140 mg, 52%) as a white solid and as a mixture of amide rotamers: mp 225-227° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.67-10.63 (m, 1H), 8.62-8.58 (m, 1H), 8.21-8.07 (m, 2H), 7.60-7.25 (m, 5H), 7.12 (dd, J=7.7, 7.4 Hz, 1H), 7.00 (dd, J=7.3, 6.9 Hz, 1H), 6.77 (br s, 1H), 6.42-6.17 (m, 1H), 5.05-4.85 (m, 2H), 3.72-3.68 (m, 3H), 3.12-2.99 (m, 3H), 2.64-2.60 (m, 2H), 2.40-2.36 (m, 2H); MS (ESI) m/e 420 (M+H)+.

reactant | (E)-3-[6-(2,5-dioxo-pyrrolidin-1-yl)pyridin-3-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 0.645 mmol, 260 mg | O=C1N(C(CC1)=O)C1=CC=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C | C23H22N4O3
reactant | ammonia | 6.0 mmol, 0.5M, 12 mL | N | H3N
product | (E)-N-(5-{2-[Methyl-(1-methyl-1H-indol-2-ylmethyl)carbamoyl]vinyl}pyridin-2-yl)succinamide | 140 mg, 52% | CN(C(=O)/C=C/C=1C=CC(=NC1)NC(CCC(=O)N)=O)CC=1N(C2=CC=CC=C2C1)C | C23H25N5O3
